US06943183B2
2. 5-(1-Ethyl-propoxymethyl)-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
According to step 2 in the method of example 19, 5-(1-Ethyl-propoxymethyl)-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one (0.123 g, 0.53 mmol), (R)-2-Imidazol-1-yl-1-phenyl-ethanol (0.131 g, 0.7 mmol), triphenylphosphine resin (0.620 g, loading 1.24 mmol/g, Argonaut Technologies), diethyl diazodicarboxylate (0.121 ml, 0.77 mmol, Aldrich Chemical) and freshly distilled tetrahydrofuran (5 ml, Aldrich Chemical) were combined in a 2 dram screw topped vial with a teflon lined cap. After mixing on an inverting mixer at 25° C. for 16 hrs., the resin was removed by gravity filtration and mixture concentrated in vacuo to a yellow-brown syrup. The residue was dissolved in methanol (5 ml) and macroporous polystyrene sulfonic acid resin (0.583 g, loading 1.5 mmol/g, Argonaut Technologies) added. After mixing for 2 hrs. at 25° C., the resin was collected by gravity filtration, washed with methanol (2×5 ml). Elution of product from the resin with 2.0 M ammonia in methanol (5 ml, Aldrich) and concentration in vacuo yielded 139 mg brown glass compound. Low resolution mass spectroscopy m/z (APCI) 433 [M+H]+.

reactant | 5-(1-Ethyl-propoxymethyl)-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one | 0.53 mmol, 0.123 g | C(C)C(CC)OCC1=C2CCCC(C2=CC=C1O)=O | C16H22O3
reactant | (R)-2-Imidazol-1-yl-1-phenyl-ethanol | 0.7 mmol, 0.131 g | N1(C=NC=C1)C[C@H](O)C1=CC=CC=C1 | C11H12N2O
reactant | triphenylphosphine resin | 0.620 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl diazodicarboxylate | 0.77 mmol, 0.121 ml | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(1-Ethyl-propoxymethyl)-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 139 mg | C(C)C(CC)OCC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C27H32N2O3
